2114-03-08 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient weaned off nitro drip, given home dose of clonidine and this
   am, hctz. Pressures intially too low-- low 100's, up to 130s
   temporarily but now down to 90s
   Allergies:
   All drug allergies previously recorded have been deleted
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-8**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 99 (99 - 129) bpm
   BP: 133/98(106) {101/66(76) - 178/122(131)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                    198 mL
                                                                    990 mL
   PO:
                                                                    100 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     98 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    400 mL
   Urine:
   400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    198 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: resting comfortably in bed, NAD
   HEENT: dry mucous membranes, 2cm white rounded lesion on hard palate
   with erythematous surroundings
   NECK: Supple, No LAD, No JVD
   CV: RR, tachycardic. NL S1, S2. No murmurs, rubs or gallops
   LUNGS: CTA, BS BL, No W/R/C
   ABD: Obese, Soft, NT, ND. NL BS.  No HSM
   EXT: No edema. 2+ DP pulses BL
   SKIN: No lesions or IV marks noted
   NEURO: A&Ox3. Appropriate. CN 2-12 intact. Preserved sensation
   throughout. 5/5 strength throughout. Normal coordination. Gait
   assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   554 K/uL
   15.5 g/dL
   117 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   12 mg/dL
   97 mEq/L
   133 mEq/L
   48.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2114-3-8**]  05:53 AM
   WBC
   9.7
   Hct
   48.0
   Plt
   554
   Cr
   1.0
   Glucose
   117
   Other labs: PT / PTT / INR:17.7/38.6/1.6, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   44 yo female with history of hypertension and IVDU presents with
   tachycardia and hypertensive urgency in the setting of medication
   noncompliance.
   1. Hypertension
   Etiology of her hypertension appears most likely secondary to
   medication noncompliance, particularly given the risks of rebound
   hypertension with clonidine use. Additional possibilities include
   benzodiazepine withdrawal as pt reports that she was recently taken off
   of alprazolam and was given diazepam within the last week. Her blood
   pressure has significantly improved since transfer to the floor, but
   has gotten too low, now in the 90s
   - hold clonidine for now
   - increase HCTZ to 25mg daily, already given in the AM, also hold for
   now
   - patient titrated off nitro gtt
   - f/u urine tox screens, serum tox screen negative
   - Give fluid boluses to augment blood pressure.
   - consider Yohimbine to counteract clonidine if BP does not improve
   with fluid boluses.
   2. Tachycardia
   Differential diagnosis for patient's tachycardia includes dehydration
   or benzodiazepine withdrawal. Regarding benzodiazepine withdrawal,
   patient was previously taking xanax and then her primary care stopped
   providing her xanax. She then went to the ED on [**2114-2-27**] where she was
   prescribed both percocet and valium. If she has taken valium over the
   last week, she has likely tapered off benzodiazepines herself with a
   long acting benzodiazepine. Given that her tachycardia worsened while
   being in the ED, this appears related to withdrawal syndrome.
   - serum tox negative and urine tox pending
   - monitor on telemetry
   - fluid boluses as above
   3. IVDU
   Patient reports a relapse in heroin use in the last week.
   - Addictions consult once hemodynamically stable
   4. Oral Ulcer
   Unclear etiology for oral ulcer. Differential includes infectious or
   pre-malignant/malignant lesion.  Patient has had tumor on tongue in the
   past with positive margins on biopsy, she has not followed this up.
   - swab lesion
   - call ENT, as they have seen her before.
   5. Asthma
   Patient appears stable and appears well-controlled on current regimen.
   - continue advair, albuterol prn, and singulair prn
   6. Nausea and vomiting
   Symptoms appear to have resolved now. Etiology is unclear. Differential
   includes gastroenteritis, withdrawal. Abdominal exam benign.
   - antiemetics prn
   - continue to follow
   - advance diet PRN
   ICU Care
   Nutrition: clears for now, advance as tolerated
   Glycemic Control:  autoregulation
   Lines:
   20 Gauge - [**2114-3-7**] 06:46 PM
 left hand
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: not needed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending normalization of blood pressure

2114-03-09 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-8**] 04:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-9**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 88 (81 - 106) bpm
   BP: 175/109(125) {78/50(56) - 175/109(125)} mmHg
   RR: 20 (8 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  4,222 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
                                                                  3,422 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    500 mL
   Urine:
                                                                  3,000 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,222 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   396 K/uL
   13.7 g/dL
   92 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   14 mg/dL
   103 mEq/L
   136 mEq/L
   40.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2114-3-8**]  05:53 AM
                             [**2114-3-9**]  05:24 AM
   WBC
   9.7
   4.1
   Hct
   48.0
   40.1
   Plt
   554
   396
   Cr
   1.0
   0.8
   Glucose
   117
   92
   Other labs: PT / PTT / INR:12.0/29.7/1.0, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   44 yo female with history of hypertension and IVDU presents with
   tachycardia and hypertensive urgency in the setting of medication
   noncompliance.
   1. Hypertension
   Etiology of her hypertension appears most likely secondary to
   medication noncompliance, particularly given the risks of rebound
   hypertension with clonidine use. Additional possibilities include
   benzodiazepine withdrawal as pt reports that she was recently taken off
   of alprazolam and was given diazepam within the last week. Her blood
   pressure has significantly improved since transfer to the floor, but
   has gotten too low, now in the 90s
   - hold clonidine for now
   - increase HCTZ to 25mg daily, already given in the AM, also hold for
   now
   - patient titrated off nitro gtt
   - f/u urine tox screens, serum tox screen negative
   - Give fluid boluses to augment blood pressure.
   - consider Yohimbine to counteract clonidine if BP does not improve
   with fluid boluses.
   2. Tachycardia
   Differential diagnosis for patient's tachycardia includes dehydration
   or benzodiazepine withdrawal. Regarding benzodiazepine withdrawal,
   patient was previously taking xanax and then her primary care stopped
   providing her xanax. She then went to the ED on [**2114-2-27**] where she was
   prescribed both percocet and valium. If she has taken valium over the
   last week, she has likely tapered off benzodiazepines herself with a
   long acting benzodiazepine. Given that her tachycardia worsened while
   being in the ED, this appears related to withdrawal syndrome.
   - serum tox negative and urine tox pending
   - monitor on telemetry
   - fluid boluses as above
   3. IVDU
   Patient reports a relapse in heroin use in the last week.
   - Addictions consult once hemodynamically stable
   4. Oral Ulcer
   Unclear etiology for oral ulcer. Differential includes infectious or
   pre-malignant/malignant lesion.  Patient has had tumor on tongue in the
   past with positive margins on biopsy, she has not followed this up.
   - swab lesion
   - call ENT, as they have seen her before.
   5. Asthma
   Patient appears stable and appears well-controlled on current regimen.
   - continue advair, albuterol prn, and singulair prn
   6. Nausea and vomiting
   Symptoms appear to have resolved now. Etiology is unclear. Differential
   includes gastroenteritis, withdrawal. Abdominal exam benign.
   - antiemetics prn
   - continue to follow
   - advance diet PRN
   ICU Care
   Nutrition: regular
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2114-3-8**] 10:18 AM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-03-09 14:40:00 Physician Resident Progress Note
Chief Complaint: hypertension
   24 Hour Events:
   ENT consult mouth lesion-> aphthous ulcer, outpt f/u
   Hypotensive, 1 L NS bolused
   S
   Feeling tired.  W/ muscle aches and [**7-22**] headache.  Not sleeping well.
   No more diarrhea / cough.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-9**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-9**] 02:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 92 (80 - 113) bpm
   BP: 172/110(125) {85/52(59) - 185/116(133)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  4,222 mL
                                                                    300 mL
   PO:
                                                                    800 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  3,422 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                  1,200 mL
   Urine:
                                                                  3,000 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,222 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, post
   soft palate ulceration w/ white exudate, ~ 2 cm diameter
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed, cn 2-12 intact; no dysdiadikinesia;
   strength 5/5 througout
   Labs / Radiology
   396 K/uL
   13.7 g/dL
   92 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   14 mg/dL
   103 mEq/L
   136 mEq/L
   40.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2114-3-8**]  05:53 AM
                             [**2114-3-9**]  05:24 AM
   WBC
   9.7
   4.1
   Hct
   48.0
   40.1
   Plt
   554
   396
   Cr
   1.0
   0.8
   Glucose
   117
   92
   Other labs: PT / PTT / INR:12.0/29.7/1.0, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   44 yo female w/ htn urgency, setting of med noncompliance
   # HTN
   Likely essential HTN.  Pt had transient low BPs after 1 day of
home
   meds
, however given non compliance may have to powerful of
   antihypertensive regimen prescribed but not taken in realty.  Also is
   possible was taking clonidine for withdrawal purposes, ivda
   abstinence.
   At this point, will cont treat w/ HCTZ and metoprolol 12.5 mg [**Hospital1 **] (new
   med).
   Eval for hyperthryroidism or hypo / hypercortisolism unremarkable.
   -          HCTZ + metoprolol
   # Oral Ulcer
   Likely aphthous ulcer.
   Will have pt f/u w/ ENT as outpatient, may require bx
   # HCT drop
   In setting of fluids, and presenting
   Will check [**Hospital1 **] HCT
   Guiac Stools
   # Headache
   In setting of diarrhea, then myalgias, without focal neuron exam.
   Likely either a) part of viral syndrome or b) due to transient relative
   hypotension after lowering yesterday, now re-equilibrating.
   # Naus / vomiting
   Resolved
   # Dispo
   Floor
   ICU Care
   Nutrition:
   Reg diet
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2114-3-8**] 10:18 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to floor
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  I would add/emphasize
   that her blood pressure has come under better control and her
   hypotension has resolved.  This morning she has a moderate headache but
   detailed neurologic exam (motor, sensory, cerebellar, cranial nerves)
   is without focality.
   Assessment and Plan
   44 y/o woman with hypertensive urgency (improved).
   Hypertensive Urgency
   Will need ongoing titration of her medications.  I am concerned that
   her
home medications
 may represent increased doses and numbers o
   fmedications without her always taking them.  She will need a roughly
   stable regimen prior to discharge, given reported trouble following up
   in past.  TSH makes hyperthyroidism unlikely.
   Nausea/Vomiting
   No resolved
   Oral lesion
   ENT believes this is an aphthous ulcer.  Recommends outpatient
   follow-up.
   History of tongue tumor
   ENT recommends outpatient follow-up.
   Headache
   Exam is very reassuring, in detail.  If headache does not improve, or
   if it occurs with recrudescence of headache, would consider
   intracranial imaging.
   Other issues as detailed in ICU team note.
   Disposition
   To floor
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2114-3-9**] 10:20 PM ------